US06610705B1
(4-Methoxyphenyl)-(4-(2,3-epoxy-propyloxy)phenyl)-5,6,7,8-tetrahydronaphth-1-yl-methane
A mixture of (4-methoxyphenyl)-(3-methyl-4-hydroxyphenyl)-5,6,7,8-tetrahydronaphth-1-yl-methane (410 mg, 0.001 mol), epichlorohydrin (25 ml) and anhydrous K2CO3 (2.0 gm, 0.014 mol) was refluxed at 120° C. for 6 hrs, K2CO3 was filtered off and the filtrate was concentrated. The residue obtained was dissolved in ethyl acetate and washed with water, dried over sodium sulphate and concentrated to give an oil which was chromatographed over silica gel using hexane:chloroform as the eluent to give the title compound. Yield 388 mg (82.37%).

reactant | (4-methoxyphenyl)-(3-methyl-4-hydroxyphenyl)-5,6,7,8-tetrahydronaphth-1-yl-methane | 0.001 mol, 410 mg | COC1=CC=C(C=C1)C(C1=CC=CC=2CCCCC12)C1=CC(=C(C=C1)O)C | C25H26O2
reactant | epichlorohydrin | 25 ml | C(Cl)C1CO1 | C3H5ClO
reactant | K2CO3 | 0.014 mol, 2.0 gm | C(=O)([O-])[O-].[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-Methoxyphenyl)-(4-(2,3-epoxy-propyloxy)phenyl)-5,6,7,8-tetrahydronaphth-1-yl-methane | COC1=CC=C(C=C1)C(C1=CC=CC=2CCCCC12)C1=CC=C(C=C1)OCC1CO1 | C27H28O3
